US09216173B2
A solution of N-(2,4-dimethoxybenzyl)-5-methylthieno[2,3-c]pyridin-7-amine (235 mg, 0.747 mmol) in trifluoroacetic acid (6 mL) was heated to 40° C. for 1 hour. After cooling to room temperature, the reaction mixture was concentrated under reduced pressure. Toluene was added to the flask and the reaction mixture was concentrated under reduced pressure again. The residue was diluted with 10% 2-propanol/chloroform (30 mL), saturated aqueous sodium bicarbonate solution (20 mL), and saturated aqueous sodium carbonate solution (10 mL). The layers were separated, and the aqueous layer was extracted with additional 10% 2-propanol/chloroform (2×10 mL). The combined organics were washed with brine, dried over sodium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by chromatography on silica gel (1-5% methanol/dichloromethane, linear gradient) to afford 5-methylthieno[2,3-c]pyridin-7-amine. MS ESI calc'd. for C8H9N2S [M+H]+ 165. found 165. 1H NMR (500 MHz, CDCl3) δ 7.54 (d, J=5.3 Hz, 1H), 7.23 (d, J=5.3 Hz, 1H), 7.03 (s, 1H), 4.66 (s, 2H), 2.49 (s, 3H).

reactant | N-(2,4-dimethoxybenzyl)-5-methylthieno[2,3-c]pyridin-7-amine | 0.747 mmol, 235 mg | COC1=C(CNC=2N=C(C=C3C2SC=C3)C)C=CC(=C1)OC | C17H18N2O2S
solvent | trifluoroacetic acid | 6 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 5-methylthieno[2,3-c]pyridin-7-amine | CC=1C=C2C(=C(N1)N)SC=C2 | C8H8N2S
